US07253165B2
Synthesis of of (R)-1-benzylamino-3-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dichloroethane, benzylamine and ethanol, essentially as described above in Example 57. Purity by LC/MS=88%, [M+H]+=393.

reactant | (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC(=CC=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-benzylamino-3-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol | C(C1=CC=CC=C1)NC[C@H](COC1=CC(=CC=C1)C1=NOC2=C1C=CC(=C2)F)O | C23H21FN2O3
